US06517869B1
Alpha-(N-benzyloxycarbonyl-4-aminobutyl) glycolic acid.
A solution of NaNO2 in water (200 ml) was added dropwise during 3 hr to an ice-cooled and stirred solution of N-ε-CBZ-L-lysine in 1 N H2SO4 and acetonitrile. The mixture was stirred for an additional 2 hr after the addition of 0-5° C. and left to stand overnight. The resulting clear solution was concentrated under reduced pressure. The residual semi-solid was extracted with ether, and the ether extract was then crystallized in ether/petroleum ether. The products recovered was α-(N-CBZ-4-aminobutyl) glycolic acid.

reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | N-ε-CBZ-L-lysine | C1=CC=C(C=C1)COC(=O)NCCCCC(C(=O)O)N | C14H20N2O4
solvent | water | 200 ml | O | H2O
solvent | H2SO4 | 1 N | OS(=O)(=O)O | H2O4S
solvent | acetonitrile | C(C)#N | C2H3N
product | Alpha-(N-benzyloxycarbonyl-4-aminobutyl) glycolic acid | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)O)O | C14H19NO5
